US07186724B2
3-Piperidin-4-yl-7-trifluoromethyl-benzo[d]isoxazole (MDL 832106A).
A mixture of 4-(7-trifluoromethyl-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (8.00 g, 21.6 mmol), HCl (100 mL of a 1 M ether solution, 100 mmol), and methanol (50 mL) was stirred at room temperature under nitrogen overnight. The reaction was concentrated and the solid triturated with methanovether to afford 5.84 g (88%) of the desired product as a white powder, mp: 242–243° C.

reactant | 4-(7-trifluoromethyl-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 21.6 mmol, 8.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1C=CC=C2C(F)(F)F | C18H21F3N2O3
reactant | HCl | Cl | ClH
reactant | ether | 1 M | CCOCC | C4H10O
solvent | methanol | 50 mL | CO | CH4O
product | 3-Piperidin-4-yl-7-trifluoromethyl-benzo[d]isoxazole | 5.84 g, 88% | N1CCC(CC1)C1=NOC2=C1C=CC=C2C(F)(F)F | C13H13F3N2O
